US07067667B2
7-[1-(3-Chlorobenzylamino)propyl]-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
1.6 ml (1.9 mmol) of 1.2 M diisobutylaluminum hydride (DIBAH) in toluene is added in drops to a solution of 510 mg (1.9 mmol) of 7-(methoxycarbonylethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 50 ml of toluene at −70° C. After 2 hours at −70° C., the batch is mixed with 0.75 ml (0.9 mmol) of DIBAH solution, stirred for 15 minutes, treated with 3 ml of isopropanol and 1 ml of water and stirred for 2 hours at room temperature. The reaction solution is filtered and concentrated by evaporation in a vacuum. The residue is dissolved in 50 ml of 1,2-dichloroethane, mixed with 0.38 ml (3.1 mmol) of 3-chlorobenzylamine, 0.91 g (4.3 mmol) of sodium (triacetoxy)-borohydride and 0.017 ml (0.29 mmol) of acetic acid and stirred for 24 hours at room temperature. The batch is diluted with ethyl acetate, washed with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with ethyl acetate-methanol yields 290 mg of product.

reactant | diisobutylaluminum hydride | 1.9 mmol, 1.2 M, 1.6 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(methoxycarbonylethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.9 mmol, 510 mg | COC(=O)CCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C16H19NO3
reactant | DIBAH | 0.9 mmol, 0.75 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-chlorobenzylamine | 3.1 mmol, 0.38 ml | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | sodium (triacetoxy)-borohydride | 4.3 mmol, 0.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.29 mmol, 0.017 ml | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | 7-[1-(3-Chlorobenzylamino)propyl]-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 290 mg | ClC=1C=C(CNC(CC)C=2C=CC=3C4C(C(NC3C2)=O)CCC4)C=CC1 | C22H25ClN2O
